US04358599
4-Nitro-1,2-diethyl-pyrazolidine
To a suspension of 3 g. (0.022 moles) potassium carbonate in 20 ml ethanol in an ice bath was added 1.8 g. (0.011 moles) diethyl hydrazine dihydrochloride monohydrate with stirring for about 5 min. To this was added 1.92 (0.011 moles) of 1,3-bis-dimethylamino-2-nitropropane and stirring continued at room temperature for 2.5 hr. The alcoholic solution was decanted from the solid and evaporated to give a dark oil. Diethyl ether was added to give a suspension. Magnesium sulfate was added and the liquid portion separated and evaporated to an oil. Nuclear Magnetic Resonance confirmed presence of the product with some contamination of starting nitro compound.

reactant | potassium carbonate | 0.022 moles | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl hydrazine dihydrochloride monohydrate | 0.011 moles | O.Cl.Cl.C(C)NNCC
reactant | 1,3-bis-dimethylamino-2-nitropropane | CN(CC(CN(C)C)[N+](=O)[O-])C | C7H17N3O2
reactant | Magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 4-Nitro-1,2-diethyl-pyrazolidine | [N+](=O)([O-])C1CN(N(C1)CC)CC | C7H15N3O2
